US03976678
i. Preparation of Methyl α-bromo-βmethoxypropionate
To a solution of 45 g. of methanol (dried over magnesium) and 33.7 g. of methylacrylate was added 120 g. of mercuric acetate. The mixture was allowed to stand at room temperature for three days with occasional shaking (after this period a small amount of unreacted mercuric acetate remained). The reaction mixture was cooled in an ice-bath and a solution of 45 g. of potassium bromide in 150 ml. of water was added, dropwise with strirring, during 25 mins. The heavy white oil which separated was extracted with 20 ml. of chloroform and the aqueous layer extracted with two further 50 ml. portions of chloroform. The combined chloroform extracts were washed with four 60 ml. portions of distilled water, dried and filtered. The filtrate in a 600 ml. beaker was exposed to two No. 2 photoflood lamps which were mounted in suitable reflectors as near the surface of the solution as possible and maintained at 50° to 57°C whilst 56.3 g. of bromine was added, with stirring, at such a rate as to keep up with its consumption. When all the bromine had been consumed, the reaction mixture as cooled for 15 mins. in an ice-bath and the precipitated mercuric bromide was removed by filtration and washed carefully with chloroform. The filtrate was concentrated under reduced pressure to yield an oil. Infra-red and proton NMR spectroscopy confirmed the desired product was obtained. The product, Methyl α-bromo-β-methoxy propionate (68.9 g., 100% yield based on bromine) showed a single peak by gas-liquid chromatography. It was desirable to freshly distil the product before use in the next reaction.

reactant | methanol | CO | CH4O
reactant | methylacrylate | COC(C=C)=O | C4H6O2
reactant | potassium bromide | [Br-].[K+]
solvent | water | O | H2O
product | Methyl α-bromo-βmethoxypropionate | BrC(C(=O)OC)COC | C5H9BrO3
